data/mechanisms/records/IMS8-EQ8.103.json
{"mechanism_id": "IMS8-EQ8.103", "species": [{"species_id": "chlorohexane_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][Cl+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "tetramethylene_chloronium_ion", "mapped_smiles": "[CH2:3]1[CH2:4][CH2:5][CH2:6][Cl+:7]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "expelled_ethyl_radical", "mapped_smiles": "[CH3:1][CH2:2]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["chlorohexane_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["tetramethylene_chloronium_ion", "expelled_ethyl_radical"]}], "steps": [{"step_id": "step_rd_displacement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [3, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_103", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_displacement", "support_type": "textbook_proposed", "locator": {"page": 213, "equation": "8.103", "figure": null, "panel": "first scheme under the sub-heading 'Displacement:'", "section": "8.11 Other rearrangements"}, "confidence": 0.85, "curator_note": "Equation 8.103 is printed generically: 'R' is attached by a horizontal bond to the top-left corner of a U-shaped polymethylene chain, the top-right end of that chain carries 'Y' with '+.' written above it, the arrow is labelled 'rd', and the products are drawn as 'R. + [ring closed between the top-left carbon and Y, with + over the ring Y]'. So the bond that breaks is C(top-left)-R and the bond that forms is C(top-left)-Y, both incident to the same carbon. ARC COUNT (convention D): Book draws 2 arc(s), both single-barbed fishhooks, and their barbs CONVERGE pointing down into the empty gap between the R-bearing carbon and Y - i.e. onto the forming C-Y bond. Arc 1 has its tail on the R-C bond; arc 2 has its tail at the odd-electron dot of the '+.' over Y. Moves <1,2> are those two drawn arcs (move 1 = the chlorine odd electron into the forming C-Cl bond, move 2 = one electron of the breaking C-R bond into the same forming bond); move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - it puts the second electron of the breaking C-R bond on the departing carbon, which is what actually produces the R. radical the book prints as a product. INSTANTIATION (convention F): the page prints no m/z and no intensity, but the book's own continuation on p. 214 fixes the instantiation - 'among the most striking examples of rd reactions are those involving the monovalent elements chlorine and bromine (reactions 4.42 and 8.103, Y = Cl, Br) to yield the stabilized cyclic halonium ion. For Y = Cl the C4H8Cl+ peak (m/z 91) is the base peak for R = C2H5 through C8H17'. This record therefore uses Y = Cl, R = C2H5, i.e. the 1-chlorohexane molecular ion (C6H13(35Cl), M+. m/z 120.0695), giving the five-membered tetramethylenechloronium ion C4H8(35Cl)+ (m/z 91.0304) plus the ethyl radical (29.0391). LOCALIZATION (convention B): the precursor SMILES puts the charge and the odd electron explicitly on chlorine ([Cl+:7] with one bond = one unpaired electron in RDKit), so arc 2 has a real origin; the product ion is the closed-shell divalent [Cl+] of the ring. Chain-length note: the five-membered ring (Cl + 4 C) is the book's own preferred size; the page's U-arc is generic in chain length, and p. 214 adds that six-membered (Y = NH2) and three-membered rings also occur."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 120.0695, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_91", "species_id": "tetramethylene_chloronium_ion", "step_id": "step_rd_displacement", "observed_mz": 91.0304, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
